US08426447B2
To a flask charged with 7-(3-hydroxy-3-methyl-1-butyn-1-yl)-3-bromo-spiro[chromeno[2,3-b]pyridine-5,4′-[1,3]oxazol]-2′-amine (340 mg, 0.821 mmol) was added methanol (9962 μL, 246 mmol) and methane sulfonic acid (533 μL, 8.21 mmol). The flask was sealed and heated at 60° C. for 3 hours. The reaction was diluted with saturated sodium bicarbonate (100 mL) and poured into a separatory funnel containing ethyl acetate (50 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to provide a tan solid that was purified by silica gel chromatography (Redi-Sep pre-packed silica gel column (40 g), 0-10% methanol in methylenechloride with 0.1% ammonium hydroxide) to provide 7-(3-methoxy-3-methyl-1-butyn-1-yl)-3-bromo-spiro[chromeno[2,3-b]pyridine-5,4′-[1,3]oxazol]-2′-amine (306 mg, 0.714 mmol, 87% yield) as a tan solid. MS m/z=428.0 [M+H]+. Calc'd for C20H19BrN3O3: 428.1.

reactant | 7-(3-hydroxy-3-methyl-1-butyn-1-yl)-3-bromo-spiro[chromeno[2,3-b]pyridine-5,4′-[1,3]oxazol]-2′-amine | 0.821 mmol, 340 mg | OC(C#CC=1C=C2C(=CC1)OC1=NC=C(C=C1C21N=C(OC1)N)Br)(C)C | C19H16BrN3O3
reactant | methanol | 246 mmol, 9962 μL | CO | CH4O
reactant | methane sulfonic acid | 8.21 mmol, 533 μL | CS(=O)(=O)O | CH4O3S
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
product | 7-(3-methoxy-3-methyl-1-butyn-1-yl)-3-bromo-spiro[chromeno[2,3-b]pyridine-5,4′-[1,3]oxazol]-2′-amine | 0.714 mmol, 306 mg, 87% yield | COC(C#CC=1C=C2C(=CC1)OC1=NC=C(C=C1C21N=C(OC1)N)Br)(C)C | C20H18BrN3O3
